US05348882
Hydrolysis of N-chloroacetyl-N-methyl-L-alanine
1 ml of a 30 mM solution of N-choloracetyl-N-methyl-L-alanine in 0.1M tris-HC1, pH 7.0 was introduced into a reaction container thermostatted to 30° C. and mixed with 1.99 ml 0.1M tris --HCl pH 7.0. The reaction was started by adding 0.01 ml N-acyl-L-proline acylase from Comamonas TESTOSTERONI DSM 5416 corresponding to 0.23 units and 0.2 μg protein. 1 unit is defined as the amount of enzyme which converts 1 μmole of N-acetyl-L-proline per minute at 30° C. and pH 7.0. Specimens were taken at various points in time to detect the course of the reaction, compounded with 2N HCl 1:2 and subsequently analyzed by HPLC using an RP 8-column (250×4 mm). After elution with 7% (v/v) acetonitrile in 0.01M heptane sulfonic acid (adjusted to pH 2.2 with 85% H3PO4) at a flow rate of 2.2 ml/min. and a column temperature of 40° C., the decrease of N-chloroacetyl-N-methyl-L-alanine was determined by measuring the UV absorption at 210 nm.

reactant | HCl | pH 7.0 | Cl | ClH
reactant | N-acetyl-L-proline | 1 μmole | C(C)(=O)N1[C@H](C(=O)O)CCC1 | C7H11NO3
reactant | HCl | 2N | Cl | ClH
product | N-chloroacetyl-N-methyl-L-alanine | ClCC(=O)N([C@@H](C)C(=O)O)C | C6H10ClNO3
